US05922737
Combine 2-chloro-1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazole (9.50 g, 31.2 mmol) and ethyl 4-aminopiperidine-1-carboxylate (5.4 g, 31 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (5.6 mL, 37.4 mmol), and pyridine (90 mL). Heat to reflux. After 18 hours, cool to ambient temperature and evaporate in vacuo to give ethyl (1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine.

reactant | 2-chloro-1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazole | 31.2 mmol, 9.50 g | ClC1=NC2=C(N1CC=1OC(=CC1)C(=O)OCC)C=CC=C2 | C15H13ClN2O3
reactant | ethyl 4-aminopiperidine-1-carboxylate | 31 mmol, 5.4 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 37.4 mmol, 5.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 90 mL | N1=CC=CC=C1 | C5H5N
product | ethyl (1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | C(C)N(C1CCN(CC1)C(=O)OCC)C1=NC2=C(N1CC=1OC(=CC1)C(=O)OCC)C=CC=C2 | C25H32N4O5
